US08754008B2
4.8: 1,5-dimethyl-6-thioxo-3-(2,2,7-trifluoro-3-oxo-4-(prop-2-ynyl)-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)-1,3,5-triazinane-2,4-dione
To 1,3-dimethylthiourea (2.489 g, 23.89 mmol) and triethylamine (2.78 ml, 19.91 mmol) in dry toluene was added 2,2,7-trifluoro-6-isocyanato-4-(prop-2-ynyl)-2H-benzo[b][1,4]oxazin-3(4H)-one (5.62 g, 19.91 mmol) in dry toluene. Hereto was subsequently added carbonyldiimidazole (CDI; 6.46 g, 39.8 mmol) and the resulting mixture was stirred at 80° C. overnight. Then the reaction mixture was cooled to room temperature and poured into ethyl acetate/water under stirring. The layers were separated and the aqueous layer was extracted with dichloromethane. The combined extracts were washed with brine, dried with Na2SO4 and concentrated to yield 14.4 g.

reactant | 1,3-dimethylthiourea | 23.89 mmol, 2.489 g | CNC(=S)NC | C3H8N2S
reactant | triethylamine | 19.91 mmol, 2.78 ml | C(C)N(CC)CC | C6H15N
reactant | 2,2,7-trifluoro-6-isocyanato-4-(prop-2-ynyl)-2H-benzo[b][1,4]oxazin-3(4H)-one | 19.91 mmol, 5.62 g | FC1(C(N(C2=C(O1)C=C(C(=C2)N=C=O)F)CC#C)=O)F | C12H5F3N2O3
reactant | carbonyldiimidazole | 39.8 mmol, 6.46 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 1,5-dimethyl-6-thioxo-3-(2,2,7-trifluoro-3-oxo-4-(prop-2-ynyl)-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)-1,3,5-triazinane-2,4-dione | CN1C(N(C(N(C1=S)C)=O)C1=CC2=C(OC(C(N2CC#C)=O)(F)F)C=C1F)=O | C16H11F3N4O4S
